US04349684
8-(2-Oxo-3.4.5-triphenyl-4-imidazolin-1-yl) caprylic acid methyl ester
The product is produced as described in example 1 from 1.2 g of NaH (80% suspension in mineral oil), 12 g of 1.4.5-triphenyl-4-imidazolin-2-one, 80 cc. of DMF, 9.5 g of 8-bromocaprylic acid methyl ester and 1.2 g of NaJ.

reactant | NaH | 1.2 g | [H-].[Na+]
reactant | 1.4.5-triphenyl-4-imidazolin-2-one | 12 g | C1(=CC=CC=C1)N1C(NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H16N2O
reactant | 8-bromocaprylic acid methyl ester | 9.5 g | COC(CCCCCCCBr)=O | C9H17BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-(2-Oxo-3.4.5-triphenyl-4-imidazolin-1-yl) caprylic acid methyl ester | COC(CCCCCCCN1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C30H32N2O3
